US05663467
Preparation of the Benzoxazinone
The amino-alcohol was dissolved in THF (15 ml) and cooled to -10° C. under N2. To the mixture was added triethylamine (5.4 ml) and phosgene in toluene (4.6 ml). The addition of phosgene caused an exotherm which was maintained below 20° C. by the rate of addition. The progress of the reaction was monitored by HPLC and was typically complete in 15 minutes.

reactant | amino-alcohol | NO | H3NO
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 4.6 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Benzoxazinone | O1NC(CC2=C1C=CC=C2)=O | C8H7NO2
